### PR TITLE
Katy/interleaved wip

### PR DESCRIPTION
**Pull request by katyhr**
Updated renames and reorgs of DivergenceOfSets, LinearCodes and RelativeHammingDistance.lean files

### CODE REVIEW

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 1]
```diff
@@ -0,0 +1,154 @@
...
+
+open Classical LinearCodes
+
+noncomputable section
+
+variable {F : Type*} [Semiring F]
+variable {κ : ℕ}
+variable {ι : ℕ}
+
+--Remark/Question: Any better suggestions for the namespace below?
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:20]: Yes.
`rowSpan` belongs to `LinearCodes.lean`, under the namespace `LinearCodes`.
Furthermore, it should return `LinearCode \io F`, which is an abbrev for your submodule.

`neqCols` belongs to a separate file (I normally do `wheels.lean` but sane poeple do `utils.lean` or maybe there's a file like this already in the project), in which it's in the namespace `Matrix`, so assuming we have matrices `M` and `N`, we can write `M.neqCols N`. 

Also this sounds like something that should be, in theory, in mathlib, so please make sure that it's not.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 2]
```diff
@@ -0,0 +1,154 @@
...
+namespace Matrices
+
+def rowSpan (U : Matrix (Fin κ) (Fin ι) F) : Submodule F ((Fin ι) → F) :=
+  Submodule.span F {U i | i : (Fin κ)}
+
+def neqCols (U V : Matrix (Fin κ) (Fin ι) F) : Finset (Fin ι) :=
+  {j | ∃ i : (Fin κ), V i j ≠ U i j}
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:27]: `Fin \ka` does not need parens around, function application binds strongly.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 3]
```diff
@@ -0,0 +1,154 @@
...
+
+end Matrices
+
+namespace InterleavedCodes
+
+-- Question: in the abbrev, do we need to add the condition which makes a submodule of
+-- the given type an interleaved code? (it's in the def below)
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:34]: If I understand the question correctly, no.

As in, you'd like to add `(h : P \ka \io F)` where `P` imposes some validity conditions on (some subset of) `ka`, `io` and `F` - this is unnecessary, we'll drag `P` as an assumption on 'as needed' bases.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 4]
```diff
@@ -0,0 +1,154 @@
...
+
+abbrev InterleavedCode.{u} (κ ι : ℕ) (F : Type u) [Semiring F] : Type u
+  := Submodule F (Matrix (Fin κ) (Fin ι) F)
+
+/--
+The `κ`-interleaved code `IC` of the length `ι` linear code `LC` over the semiring `F`.
+-/
+
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:42]: Specifically for comments a'la `/-- ... -/`, they are mechanically tied to the thing that subsequently follows them - as such, not put a space between a comment of this style and the `def/theorem/etc.` that follows it. E.g. here we just do:
```
/--
The `κ`-interleaved code `IC` of the length `ι` linear code `LC` over the semiring `F`.
-/
def code (LC : LinearCode ι F) : ...
```

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 5]
```diff
@@ -0,0 +1,154 @@
...
+def code (LC : LinearCode ι F) :
+  Submodule F (Matrix (Fin κ) (Fin ι) F) :=
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:44]: This is an `InterleavedCode \ka \io F`, the submodule can go.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 6]
```diff
@@ -0,0 +1,154 @@
...
+  Submodule.span F { V : Matrix (Fin κ) (Fin ι) F | ∀ i , V i ∈ LC }
+
+def distance (U V : Matrix (Fin κ) (Fin ι) F) : ℕ :=
+  (Matrices.neqCols U V).card
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:48]: I don't see you taking an `InterleavedCode` here, so this def, which is called `InterleavedCode.distance`, is a bit strange. What is this trying to say?

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 7]
```diff
@@ -0,0 +1,154 @@
...
+
+/--
+`Δ(U,V)` is the distance codewords `U` and `V` of a `κ`-interleaved code `IC`.
+-/
+
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:53]: Space.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 8]
```diff
@@ -0,0 +1,154 @@
...
+-/
+def distToCode (U : Matrix (Fin κ) (Fin ι) F) (IC : InterleavedCode κ ι F) : ℕ :=
+ sInf { d : ℕ | ∃ V ∈ IC, distance U V = d }
+
+/--
+`Δ(U,C')` denotes distance between a `κ x ι` matrix `U` and `κ`-interleaved code `IC`.
+-/
+notation "Δ(" U "," IC ")" => distToCode U IC
+
+lemma distInterleavedEqDistCode {LC : LinearCode ι F} {IC : InterleavedCode κ ι F} :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:75]: Yes, beautiful - for all `LinearCode`s and `InterleavedCode`s, there is some relationship between their distances. This is starting to take shape. The name `codeDist` triggers me a little but there's nothing we can do about it :).

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 9]
```diff
@@ -0,0 +1,154 @@
...
+  codeDist (LC : Set (Fin ι → F)) = minDist IC := by sorry
+
+
+end InterleavedCodes
+
+noncomputable section
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:81]: Can we restructure this better to avoid having to reopen the same section-variables again?

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 10]
```diff
@@ -0,0 +1,154 @@
...
+open InterleavedCodes
+
+variable {F : Type*} [Field F] [Finite F]
+variable {κ : ℕ}
+variable {ι : ℕ}
+
+/--
+Lemma 4.3 Ligero
+-/
+
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:92]: space

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 11]
```diff
@@ -0,0 +1,154 @@
...
+instance : Fintype F := Fintype.ofFinite F
+
+lemma distInterleavedCodeToCodeLB (LC : LinearCode ι F) (IC : InterleavedCode κ ι F)
+  (U : Matrix (Fin κ) (Fin ι) F) (e : ℕ) (hF: Fintype.card F ≥ e)
+  (he : (e : ℚ) ≤ (codeDist (LC : Set (Fin ι → F)) / 3)) (hU : Δ(U,IC) > e) :
+  ∃ v ∈ Matrices.rowSpan U , distFromCode v LC  > e := sorry
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:98]: `LC, IC , U, e` can all be implicit.
Please use `e < ...` rather than `... > e`. Same for `\ge`. (Just out of convention.)

Whoa, where did that `/ 3` come from ^^.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 12]
```diff
@@ -0,0 +1,154 @@
...
+
+namespace Affine
+
+/--
+affine line between u and v
+-/
+
+def line [Ring F] (u : (Fin ι) → F) (v : (Fin ι) → F) : Set ((Fin ι) → F) :=
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:106]: Redundant parens around `Fin \io`, and `u v : ...` can be merged.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 13]
```diff
@@ -0,0 +1,154 @@
...
+  (U : Matrix (Fin κ) (Fin ι) F) (e : ℕ) (hF: Fintype.card F ≥ e)
+  (he : (e : ℚ) ≤ (codeDist (LC : Set (Fin ι → F)) / 3)) (hU : Δ(U,IC) > e) :
+  ∃ v ∈ Matrices.rowSpan U , distFromCode v LC  > e := sorry
+
+namespace Affine
+
+/--
+affine line between u and v
+-/
+
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:105]: Space.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 14]
```diff
@@ -0,0 +1,154 @@
...
+end Affine
+
+namespace ProximityToRS
+
+/--
+The set of points on an affine line between `u` and `v`, which are within distance `e`
+from an RS code of degree less than `deg` and and evaluation points `α`.
+-/
+
+def closePtsOnAffineLine (u : Fin ι → F) (v : Fin ι → F) (deg : ℕ) (α : Fin ι ↪ F)
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:118]: Merge `u v : ...`.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 15]
```diff
@@ -0,0 +1,154 @@
...
+  (e : ℕ) : ℕ :=
+  Fintype.card (closePtsOnAffineLine u v deg α e)
+
+/--
+Lemma 4.4 Ligero
+-/
+
+-- Remark: Maybe use (ReedSolomonCode.minDist deg α) instead of ι - deg + 1 once we have it proved
+
+lemma e_leq_dist_over_3 (deg : ℕ) (α : Fin ι ↪ F) (e : ℕ) {u v : (Fin ι) → F}
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:137]: `deg \alpha e` can all be implicit.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 16]
```diff
@@ -0,0 +1,154 @@
...
+-/
+
+def numberOfClosePts (u v : Fin ι → F) (deg : ℕ) (α : Fin ι ↪ F)
+  (e : ℕ) : ℕ :=
+  Fintype.card (closePtsOnAffineLine u v deg α e)
+
+/--
+Lemma 4.4 Ligero
+-/
+
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:134]: space

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 17]
```diff
@@ -0,0 +1,154 @@
...
+-- Remark: Maybe use (ReedSolomonCode.minDist deg α) instead of ι - deg + 1 once we have it proved
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:135]: This comment disjoints the `/-- -/` comments from the subsequent lemma, please put the `remark` into the `/-- -/` enclosure, and attach the thing to the lemma :).

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean [hunk 18]
```diff
@@ -0,0 +1,154 @@
...
+lemma e_leq_dist_over_3 (deg : ℕ) (α : Fin ι ↪ F) (e : ℕ) {u v : (Fin ι) → F}
+  (he : (e : ℚ) < (ι - deg + 1 / 3)) :
+  ∀ x ∈ Affine.line u v, distFromCode x (ReedSolomon.code α deg) ≤ e
+  ∨ (numberOfClosePts u v deg α e) ≤ ι - deg + 1 := by sorry
+
+
+/--
+Lemma 4.5 Ligero
+-/
+lemma probOfBadPts (deg : ℕ) (α : Fin ι ↪ F) (e : ℕ) (U : Matrix (Fin κ) (Fin ι) F)
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/InterleavedCodes.lean:146]: Implicit `deg \a e U`.

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 19]
```diff
@@ -0,0 +1,71 @@
...
+
+--abbrev LinearCode.{u} (F : Type u) [Semiring F] : Type u := Submodule F ((Fin ι) → F)
+
+noncomputable section
+
+namespace Vandermonde
+/--
+  `ι x deg` Vandermonde matrix
+-/
+def nonsquare {deg : ℕ} (α : Fin ι ↪ F) : Matrix (Fin ι) (Fin deg) F :=
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:18]: `deg` here should be explicit, you'll never infer this.

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 20]
```diff
@@ -0,0 +1,71 @@
...
+  Matrix.of (fun i j => (α i) ^ j.1)
+
+/--
+  The transpose of a `ι x deg` Vandermonde matrix
+-/
+def nonsquareTranspose [Field F] {deg : ℕ} (α : Fin ι ↪ F) :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:24]: explicit deg

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 21]
```diff
@@ -0,0 +1,71 @@
...
+  Matrix (Fin deg) (Fin ι) F :=
+  (Vandermonde.nonsquare α).transpose
+
+-- also requires α_i being distinct but we already have this with the embedding Fin ι ↪ F
+-- and is generally true for RS codes.
+
+lemma nonsquareRank [CommRing F] {deg : ℕ} (α : Fin ι ↪ F) :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:31]: I want to say implicit `\a` here but it may be slightly annoying :).

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 22]
```diff
@@ -0,0 +1,71 @@
...
+  else (Vandermonde.nonsquare (deg := deg) α).rank = ι := by sorry
+
+end Vandermonde
+
+namespace ReedSolomonCode
+
+/--
+The Vandermonde matrix is the generator matrix for an RS code of length `ι` and dimension `deg`.
+-/
+lemma genMatIsVandermonde [Field F] {deg : ℕ} (α : Fin ι ↪ F) :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:42]: implicit `\alpha`

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 23]
```diff
@@ -0,0 +1,71 @@
...
+-- our lemma Vandermonde.nonsquareRank will finish the proof because we fall into the first case.
+-- for RS codes we know `deg ≤ ι ≤ |F|`.  `ι ≤ |F|` is clear from the embedding.
+-- Check : is `deg ≤ ι` implemented in Quang's defn?
+
+lemma dim_eq_deg [Field F] {deg : ℕ} {α : Fin ι ↪ F} :
+  LinearCodes.dim (ReedSolomon.code α deg) = deg := by
+  rw[← genMatIsVandermonde, ← LinearCodes.dimEqRankGenMat]
+  sorry
+
+lemma length_eq_domain_size [Field F] (deg : ℕ) (α : Fin ι ↪ F) :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:55]: implicit `deg` and `\a`.

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 24]
```diff
@@ -0,0 +1,71 @@
...
+  LinearCodes.length (ReedSolomon.code α deg) = ι := by
+  rw[LinearCodes.length]
+  simp
+
+lemma rate [Field F] (deg : ℕ) (α : Fin ι ↪ F) :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:60]: implicit `deg` and `\a`.

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean [hunk 25]
```diff
@@ -0,0 +1,71 @@
...
+  LinearCodes.rate (ReedSolomon.code α deg) = deg / ι := by
+  rw[LinearCodes.rate, dim_eq_deg, length_eq_domain_size]
+
+/--
+  The minimal code distance of an RS code of length `ι` and dimensio `deg` is `ι - deg + 1`
+-/
+lemma minDist [Field F] (deg : ℕ) (α : Fin ι ↪ F) :
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:67]: implicit `deg` and `\a`.

File: ArkLib/Data/CodingTheory/RelativeHammingDistance.lean [hunk 26]
```diff
@@ -81,60 +73,58 @@ lemma finite_relHammingDistRange [Nonempty ι] : (RelHammingDistRange ι).Finite
...
   λ d h ↦ by aesop (add simp d_w)
 
 @[simp]
 lemma finite_d_w [Nonempty ι] : (d_w w C).Finite :=
-  Set.Finite.subset finite_relHammingDistRange d_w_subset_RelHammingDistRange
+  Set.Finite.subset finite_relHammingDistRange d_w_subset_relHammingDistRange
 
 instance [Nonempty ι] : Fintype (d_w w C) := @Fintype.ofFinite _ finite_d_w
 
+--Q: Do we still want this counterexample?
```
Comment (Ferinko) [inline ArkLib/Data/CodingTheory/RelativeHammingDistance.lean:127]: nope

**Review by Ferinko — CHANGES_REQUESTED** [review]

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 11 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:98]: Thanks! Just to make sure I understood correctly the `<` `\ge` situation, do you put the constant first when stating a hypothesis or?

Oh, the ` / 3` is just the bound on `e` for the result to hold. In Ligero, they first prove it for `dist / 4` for general codes, then `dist / 3` for RS codes. Subsequently, in the Proximity Gaps paper it's improved to `dist / 2` 👀

File: ArkLib/Data/CodingTheory/RelativeHammingDistance.lean (hunk 26 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/RelativeHammingDistance.lean:127]: My opinion too. Removed!

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 1 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:20]: Maybe if I make a separate file with preliminaries so to speak, the `rowSpan` should also go in there since it's a rowspan of a matrix? Happy to just move to `LinearCodes.lean` though!

Re: `neqCols`, I looked in Mathlib for a `neqCols` def, but I couldn't find one.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 3 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:34]: A `\ka`- interleaved code `IC` for a linear code `LC`  is a `Submodule F (Matrix (Fin \ka) (Fin \io) F)` such that `\forall V  \in IC, V i  \in LC`. i.e. when you pick any matrix in IC, its rows would be codewords in a fixed linear code `LC`. Mathematically, that extra condition obviously makes a difference because you're requiring the rows to come from a particular subspace/submodule rather than just taking any `Submodule F (Matrix (Fin κ) (Fin ι) F)` . Not 100% sure about how it works in type theory.

So the question was: do we need to add the condition  `\forall V  \in IC, V i  \in LC`  to the abbrev?

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 6 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:48]: Good point, thanks :woman-facepalming:  Will add `U V 'in IC`.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 8 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:75]: I apologise for the trigger, not my def though xD

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 9 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:81]: Yep, on it!

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 1 above)
Comment (Ferinko) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:20]: It wasn't immediately obvious to me that `rowSpan` is just a rowspan of a matrix - sure, then state it over matrices and put it in <the auxiliary> file. Try to find such file in the project already tho, they often exist.

Comment (Ferinko) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:20]: Yeah `Matrix` is very strange in the sense that it's missing row/col operations. Heh.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 3 above)
Comment (Ferinko) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:34]: Right, so that `P` above is exactly the `\forall V  \in IC, V i  \in LC`. It's ok to keep this `P` separate in here, but let me show you a technique that people often employ in Lean (I'll open a PR onto this branch, I'll let you decide if you want this).

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 11 above)
Comment (Ferinko) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:98]: Wow we'll soon be at `dist / 0` at this rate!

I mean the 'mathlib-and-thus-Lean preferred' way of stating `a > b` is always `b < a`, and it's the same for `\ge` which should be stated as `\le`. Mathematicians don't care, but Lean does in the sense that people state their 'inequality lemmas' in terms of `<` and `\le`, so it's the 'expected' formulation. This is just by convenient, there's nothing fundamental about this.

Comment (Ferinko) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:98]: So it's not about where some constant is, it's that you'd rather not see the `\ge` `>` symbol in a statement of a thing.

File: ArkLib/Data/CodingTheory/InterleavedCodes.lean (hunk 1 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/InterleavedCodes.lean:20]: There is a `Math` folder, but not a more general `Prelims.lean` or something like that

File: ArkLib/Data/CodingTheory/ReedSolomonCodes.lean (hunk 21 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/ReedSolomonCodes.lean:31]: It's not complaining if I change it.. Why would it be annoying?
